US09326973B2
Cap-12: 5,5-difluorooctahydropentalene-2-carboxylic acid
A stirred suspension of 10% Pd—C (12.53 mg) in a solution of benzyl 5,5-difluorooctahydropentalene-2-carboxylate (33 mg) in EtOAc (5 mL) was hydrogenated under balloon pressure for 2-3 h. The suspension was filtered and evaporated to dryness to afford a mixture of endo/exo isomers of Cap-12 as a white semi-solid. 1H NMR (400 MHz, chloroform-d) δ 3.04-2.93 (m, 1H), 2.88-2.76 (m, 2H), 2.40-2.26 (m, 2H), 2.15-2.04 (m, 2H), 1.87-1.71 (m, 4H).

reactant | benzyl 5,5-difluorooctahydropentalene-2-carboxylate | 33 mg | FC1(CC2CC(CC2C1)C(=O)OCC1=CC=CC=C1)F | C16H18F2O2
solvent | EtOAc | 5 mL | CCOC(=O)C | C4H8O2
catalyst | Pd—C | 12.53 mg | [Pd] | Pd
product | 5,5-difluorooctahydropentalene-2-carboxylic acid | FC1(CC2CC(CC2C1)C(=O)O)F | C9H12F2O2
